US08541596B2
N-(4-Chlorobenzyl)-3H-benzo[d]imidazol-5-amine
Alternatively the compound was synthesized starting from benzimidazol-5-amine (2.66 g; 20 mmol; 1 eq.), 4-chlorobenzaldehyde (3.09 g; 22 mmol; 1.1 eq.), NaBH4 (1.14 g; 30 mmol; 1.5 eq.) and 5 N NaOH (20 ml; 100 mmol; 5 eq.) according to method 2; Yield: 3.94 g (76.7%); MS m/z: 258.3/260.3 [M+H]+

reactant | benzimidazol-5-amine | 20 mmol, 2.66 g, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-chlorobenzaldehyde | 22 mmol, 3.09 g, 1.1 eq. | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | NaBH4 | 30 mmol, 1.14 g, 1.5 eq. | [BH4-].[Na+]
reactant | NaOH | 100 mmol, 5 N, 20 ml, 5 eq. | [OH-].[Na+]
product | N-(4-Chlorobenzyl)-3H-benzo[d]imidazol-5-amine | ClC1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C14H12ClN3
